US07005432B2
5-(5-Methoxy-3,4-dihydro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=333.3 (M+H+), was prepared from 5-methoxy-3,4-dihydro-naphthalene-2-boronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 5-methoxy-3,4-dihydro-naphthalene-2-boronic acid | COC1=C2CCC(=CC2=CC=C1)B(O)O | C11H13BO3
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(5-Methoxy-3,4-dihydro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.COC1=C2CCC(=CC2=CC=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C20H20N4O.ClH/c1-14-21-8-9-24(14)13-18-11-17(12-22-23-18)15-6-7-19-16(10-15)4-3-5-20(19)25-2;/h3-5,8-12H,6-7,13H2,1-2H3;1H
